US04844735
13.5 parts of 2-butyryl-5-(4-chlorophenyl)-cyclohexane-1,3-dione, 4.5 parts by weight of ethoxyammonium chloride, 4.5 parts by weight of anhydrous sodium acetate and 100 parts by volume of ethanol are reacted, and the mixture is worked up, in a manner similar to that in Example 1. 2-(Ethoxyaminobutylidene)-5-(4-chlorophenyl)-cyclohexane-1,3-dione is obtained as a solid, which is recrystallized from cyclohexane. The product has a melting point of 77° C. (active ingredient No. 2)

reactant | 2-butyryl-5-(4-chlorophenyl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)C1=CC=C(C=C1)Cl)=O | C16H17ClO3
reactant | ethoxyammonium chloride | [Cl-].C(C)O[NH3+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(Ethoxyaminobutylidene)-5-(4-chlorophenyl)-cyclohexane-1,3-dione | C(C)ONCCCC=C1C(CC(CC1=O)C1=CC=C(C=C1)Cl)=O | C18H22ClNO3
